US06960601B2
2-(2-chlorophenyl)-1-(4-chlorophenyl)-1H-imidazole-4-carboxylic acid (403 mg, 1.2 mmol) was dissolved in dichloromethane (5 mL) and treated with O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (HATU) (459 mg, 1.56 mmol) and N-methylmorpholine (NMM) (182 mg, 1.8 mmol). The mixture was stirred under argon for 15 minutes before 3-aminopyridine (349 mg, 3.6 mmol) was added. Stirring at rt was continued overnight. The reaction mixture was then adsorbed onto silica gel and chromatographed (2-3% MeOH in CH2Cl2) to afford 2-(2-chlorophenyl)-1-(4-chlorophenyl)-N-(3-pyridinyl)-1H-imidazole-4-carboxamide (266 mg, 54% yield): LC-MS m/z 409.3, retention time 2.43 min (method 1).

reactant | 2-(2-chlorophenyl)-1-(4-chlorophenyl)-1H-imidazole-4-carboxylic acid | 1.2 mmol, 403 mg | ClC1=C(C=CC=C1)C=1N(C=C(N1)C(=O)O)C1=CC=C(C=C1)Cl | C16H10Cl2N2O2
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 1.56 mmol, 459 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N-methylmorpholine | 1.8 mmol, 182 mg | CN1CCOCC1 | C5H11NO
reactant | 3-aminopyridine | 3.6 mmol, 349 mg | NC=1C=NC=CC1 | C5H6N2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 2-(2-chlorophenyl)-1-(4-chlorophenyl)-N-(3-pyridinyl)-1H-imidazole-4-carboxamide | 266 mg, 54% yield | ClC1=C(C=CC=C1)C=1N(C=C(N1)C(=O)NC=1C=NC=CC1)C1=CC=C(C=C1)Cl | C21H14Cl2N4O
